US08937148B2
The 2-methoxy-5-ethoxy-4-((tri-iso-propylsilyl)ethynyl)benzaldehyde and diethyl 2-ethoxy-4-iodo-5-methoxybenzylphosphonate can be added to a solution containing sodium hydride (NaH) dissolved in tetrahydrofuran (THF), yielding (E)-((4-(2-ethoxy-4-iodo-5-methoxystyryl)-(2-ethoxy-5-methylphenyl)ethynyl)tri-iso-propylsilane.

reactant | 2-methoxy-5-ethoxy-4-((tri-iso-propylsilyl)ethynyl)benzaldehyde | COC1=C(C=O)C=C(C(=C1)C#C[Si](C(C)C)(C(C)C)C(C)C)OCC | C21H32O3Si
reactant | diethyl 2-ethoxy-4-iodo-5-methoxybenzylphosphonate | C(C)OC1=C(CP(OCC)(OCC)=O)C=C(C(=C1)I)OC | C14H22IO5P
reactant | sodium hydride | [H-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4-(2-ethoxy-4-iodo-5-methoxystyryl)-(2-ethoxy-5-methylphenyl)ethynyl)tri-iso-propylsilane | C(C)OC1=C(C=CC2=CC(=C(C=C2C)C#C[Si](C(C)C)(C(C)C)C(C)C)OCC)C=C(C(=C1)I)OC | C31H43IO3Si
